US07125865B2
Step 1: Preparation of 7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl trifluoromethanesulfonate.
To a solution of 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole (500 mg, 2.04 mmol) in dry CH2Cl2 was added pyridine (0.82 mL, 10.2 mmol) at 0° C. under N2. Tf2O was then added dropwise to the reaction mixture and the resulting mixture stirred for 30 min. 1N NaOH was added and the mixture extracted with CH2Cl2. Combined organic extracts were washed with brine, dried over Na2SO4 and the solvent evaporated in vacuo. The residue was purified by chromatography on silica gel using ethyl acetate and hexane (10:90) to give the title compound.

reactant | 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | 2.04 mmol, 500 mg | OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C11H10F3NO2
reactant | pyridine | 10.2 mmol, 0.82 mL | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)(F)F | C12H9F6NO4S
